US04975437
To 10 mL of methanol was added 20 g (0.13 mole) of 2-cyanoethyl acetoacetate. The solution was cooled in ice and a slow stream of ammonia gas was passed through it for five hours. The reaction flask was stoppered and stored at 0° C. overnight. The resulting solid was collected, washed with a small amount of methanol and dried under high vacuum to give 11.1 g (0.072 mole) of 2-cyanoethyl 3-aminobut-2-enoate, 1H NMR 4.6 (s, 1H), 4.3 (t, 2H), 2.8 (t, 2H), 2.0(t, 3H).

reactant | 2-cyanoethyl acetoacetate | 0.13 mole, 20 g | C(CC(=O)C)(=O)OCCC#N | C7H9NO3
reactant | ammonia | N | H3N
solvent | methanol | 10 mL | CO | CH4O
product | 2-cyanoethyl 3-aminobut-2-enoate | 0.072 mole, 11.1 g | NC(=CC(=O)OCCC#N)C | C7H10N2O2
